US07557244B2
b) 2-(3,5-Bis-benzyloxy-phenyl)-4-methyl-pent-4-enoic acid methyl ester
A 2M solution of LDA in THF-heptane-ethylbenzene (21.5 mL, 43.0 mmol) was added dropwise over 12 min to a stirred solution of (3,5-bis-benzyloxyphenyl)acetic acid methyl ester (13.0 g, 35.9 mmol) in THF (80 mL) at −78° C. under a nitrogen atmosphere. The temperature was maintained below −70° C. for a further 50 min then 3-bromo-2-methylpropene (4.0 mL, 39.7 mmol) was added in one portion and the reaction mixture was warmed to 0° C. After 2 h the mixture was concentrated in vacuo, diluted with sat. aq. NH4Cl (100 mL) and extracted with EtOAc (100 mL). The organic layer was washed with brine (100 mL), dried (MgSO4), concentrated in vacuo and purified by flash chromatography (silica, 0-10% EtOAc in petroleum ether) to afford the title product as a yellow oil (14.1 g, 94%).

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | THF heptane ethylbenzene | 43.0 mmol, 21.5 mL | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
reactant | (3,5-bis-benzyloxyphenyl)acetic acid methyl ester | 35.9 mmol, 13.0 g | COC(CC1=CC(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C23H22O4
reactant | 3-bromo-2-methylpropene | 39.7 mmol, 4.0 mL | BrCC(=C)C | C4H7Br
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 2-(3,5-Bis-benzyloxy-phenyl)-4-methyl-pent-4-enoic acid methyl ester | 14.1 g, 94% | COC(C(CC(=C)C)C1=CC(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C27H28O4
